US07459475B2
Step A: 2-Trifluoromethoxvphenylboronic acid
To a stirred solution of 2 g (9.5 mmol) of 1-bromo-2-trifluoromethoxy benzene in 28 mL of tetrahydrofuran (THF) at −78° C., was carefully added 5.9 mL of a 1.7 M solution of t-butyl lithium in hexanes (9.5 mmol). This reaction mixture was stirred at −78° C. for 45 min. To this reaction mixture at −78° C. was added 2.58 mL (11.1 mmol) of tri-isopropyl borate, followed by slow warming of the mixture to room temperature (RT) over a period of 16 h. The reaction mixture was diluted with water and made basic with 2N NaOH solution. The mixture was then washed with EtOAc. The aqueous fraction was acidified with 2N HCl solution and stirred for 1 h at RT. The reaction mixture was extracted with EtOAc and the organic fractions were washed with water and saturated NaCl solution (brine), dried over Na2SO4 and filtered. The filtrate was concentrated to give the title compound as a white solid. 1H NMR (CDCl3) (δ, ppm): 7.96 (dd, J=7.2, 1.6 Hz, 1 H), 7.53 (ddd, J=9.1, 7.3, 1.8 Hz, 1 H), 7.38 (td, J=7.3, 0.7 Hz, 1 H), 7.28 (d, J=8.2 Hz, 1 H), 5.25 (br s, 2H). MS (M+H): 206.9.

reactant | 1-bromo-2-trifluoromethoxy benzene | 9.5 mmol, 2 g | BrC1=C(C=CC=C1)OC(F)(F)F | C7H4BrF3O
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | tri-isopropyl borate | 11.1 mmol, 2.58 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | NaOH | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 28 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Trifluoromethoxvphenylboronic acid | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
